US08975254B2
5-[4-(2-Hydroxyethyl)piperidine-1-carbonyl]-2H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide
The title compound was prepared as in the previous Example starting from 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid and 4-piperidine ethanol. The crude product was purified by flash chromatography using CH2Cl2-MeOH as a gradient eluent (100:0-95:5). 1H NMR (400 MHz, CDCl3): 1.27 (3H, m), 1.57 (2H, m), 1.85 (3H, m), 2.81 (1H, m), 3.01 (2H, t), about 3.21 (1H, m), 3.76 (4H, m), about 4.41 (1H, m), about 4.67 (1H, m), 6.20 (1H, d), 6.59 (1H, d), 7.02 (1H, s), 7.29 (1H, broad s), 7.40 (1H, distorted d), 7.43 (1H, distorted dd), 7.75 (1H, d), 11.4 (1H, broad s).

reactant | 5-{2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylcarbamoyl}-1H-pyrazole-3-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C(=O)O | C17H13Cl2N3O4
reactant | 4-piperidine ethanol | N1CCC(CC1)CCO | C7H15NO
product | 5-[4-(2-Hydroxyethyl)piperidine-1-carbonyl]-2H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C=1NN=C(C1)C(=O)N1CCC(CC1)CCO | C24H26Cl2N4O4
